US04459414
Tetrakis-(n-decylthio)-phthalic acid N-2-hydroxyethylimide
2 g (6.08 millimols) of tetrachlorophthalic acid N-2-hydroxyethylimide, 5.30 g (30.4 millimols) of n-decanthiol, 6.30 g (45.6 millimols) of potassium carbonate and 20 ml of N,N-dimethylformamide are stirred at 25° C. for 7 hours. The mixture is acidified and extracted with methylene chloride. After recrystallisation from n-hexane at 0° C., 3.75 g (70% of theory) of the title compound are obtained; melting point 57°-8° C.

reactant | tetrachlorophthalic acid N-2-hydroxyethylimide | 6.08 millimols, 2 g | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C10H7Cl4NO4
reactant | n-decanthiol | 30.4 millimols, 5.30 g | C(CCCCCCCCC)S | C10H22S
reactant | potassium carbonate | 45.6 millimols, 6.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Tetrakis-(n-decylthio)-phthalic acid N-2-hydroxyethylimide | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1SCCCCCCCCCC)SCCCCCCCCCC)SCCCCCCCCCC)SCCCCCCCCCC)O | C50H91NO4S4
